US05977178
Methyl-((1R)-2-phenyl-1-((tetrahydrofuran-2-ylmethyl)carbamoyl)ethyl)carbamic acid tert-butyl ester (5.5 g; 15.2 mmol) was dissolved in methylene chloride (20 mL) and trifluoroacetic acid (20 mL) was added. The reaction mixture was stirred for 1 hour at room temperature. Methylene chloride (100 mL) and an aqueous solution of sodium hydrogen carbonate/sodium carbonate (pH 9, 50 mL) were added and solid sodium hydrogen carbonate was added until pH 8. The aquous phase was extracted with methylene chloride (100 mL) and the combined organic phases were dried (magnesium sulfate). The solvent was removed in vacuo to afford 3.62 g of (2R)-2-Methyl-amino-3-phenyl-N-((2-tetrahydrofuranyl)methyl)propionamide.

reactant | Methyl-((1R)-2-phenyl-1-((tetrahydrofuran-2-ylmethyl)carbamoyl)ethyl)carbamic acid tert-butyl ester | 15.2 mmol, 5.5 g | C(C)(C)(C)OC(N([C@H](CC1=CC=CC=C1)C(NCC1OCCC1)=O)C)=O | C20H30N2O4
reactant | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate sodium carbonate | 50 mL, pH 9 | C(O)([O-])=O.[Na+].C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | (2R)-2-Methyl-amino-3-phenyl-N-((2-tetrahydrofuranyl)methyl)propionamide | 3.62 g | C[C@](C(=O)NCC1OCCC1)(CC1=CC=CC=C1)N | C15H22N2O2
